US08029697B2
Under an argon gas atmosphere, a mixture of 21.3 g (63.9 mmol) of 9-(4-bromophenyl)phenanthrene and 200 mL of dehydrated THF was cooled down to −60 degrees C., and added with 49.2 mL (76.7 mmol) of hexane solution of 1.56M n-butyllithium in drops while being stirred. Then, the reaction mixture was stirred for two hours at −60 degrees C. The reaction solution was further cooled down to −60 degrees C. and added with 36.1 g (192 mol) of triisopropyl borate in drops. Subsequently, the reaction mixture was warmed up to room temperature, and stirred for 17 hours. The reaction mixture was cooled down to 0 degree C. to be further added with solution of hydrochloric acid, and then stirred for one hour at room temperature. After the reaction, the reaction mixture was further added with toluene, so that aqueous phase thereof was eliminated. After organic phase thereof was dried with magnesium sulfate, the solvent was distilled away under reduced pressure. By recrystallizing residue by toluene and hexane, 13.8 g of 4-(9-phenanthrenyl)phenylboronic acid was obtained at an yield of 72%.

reactant | 9-(4-bromophenyl)phenanthrene | 63.9 mmol, 21.3 g | BrC1=CC=C(C=C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C20H13Br
reactant | hexane | 76.7 mmol, 49.2 mL | CCCCCC | C6H14
reactant | n-butyllithium | 1.56M | C(CCC)[Li]
reactant | triisopropyl borate | 192 mol, 36.1 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-(9-phenanthrenyl)phenylboronic acid | 13.8 g, yield of 72% | C1=CC=CC=2C3=CC=CC=C3C(=CC12)C1=CC=C(C=C1)B(O)O | C20H15BO2
